US06677368B2
2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic Acid (1-Methyl-piperidin-4-ylmethyl)-amide
2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (90.5 mg) was coupled with C-(1-methyl-piperidin-4-yl)-methylamine (1.5 eq.), HOBt (1 eq.), EDC (1.5 eq.) and TEA (3 drops) in THF (2 mL), DMF (0.3 mL) at rt for overnight to give 65 mg (55%) of the titled compound as a yellow solid.

reactant | 2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 90.5 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H15FN2O3
reactant | C-(1-methyl-piperidin-4-yl)-methylamine | 1.5 eq. | CN1CCC(CC1)CN | C7H16N2
reactant | HOBt | 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.5 eq.
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic Acid (1-Methyl-piperidin-4-ylmethyl)-amide | 65 mg, 55% | CN1CCC(CC1)CNC(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O | C28H29FN4O2
